US06395734B1
To a 5 L three-neck flask equipped with a thermometer and a mechanical stirrer and heated on a steam bath was added 350 g ethyl 5-acetyl-4-oxohexanoate, 329 g ethyl aminomalonate hydrochloride, 133 g sodium acetate and 1.2 L acetic acid. The mixture was heated to 99° C. over 37 minutes. By 62° C., carbon dioxide evolution was already rapid. After a total of 35 minutes at 99° C. gas, CO2 evolution had greatly slowed. After another hour, the mixture was cooled, sodium chloride removed by vacuum filtration, and the solvent evaporated. The residue was mixed with 1 L of cold water. The precipitate was collected by vacuum filtration, washed with 400 mL water, and dissolved in 1 L of hot 95% ethanol. The solution was treated with 20 g of Darco G-60, hot-filtered, and cooled to room temperature. The crystalline solid was collected by vacuum filtration, washed twice on the filter with 200 mL of 50% ethanol and dried under vacuum at 70° C. to give 285 g (64% yield) of 2-ethoxycarbonyl-4-(2-ethoxycarbonylethyl)-3,5-dimethylpyrrole. The filtrate was refrigerated overnight to give another 53.1 g (11.9% yield) of product for a total yield of 75.9%).

reactant | ethyl 5-acetyl-4-oxohexanoate | 350 g | C(C)(=O)C(C(CCC(=O)OCC)=O)C | C10H16O4
reactant | ethyl aminomalonate hydrochloride | 329 g | Cl.NC(C(=O)OCC)C(=O)O
reactant | sodium acetate | 133 g | C(C)(=O)[O-].[Na+]
reactant | carbon dioxide | C(=O)=O | CO2
solvent | acetic acid | 1.2 L | C(C)(=O)O | C2H4O2
product | 2-ethoxycarbonyl-4-(2-ethoxycarbonylethyl)-3,5-dimethylpyrrole | 285 g, 64% yield | C(C)OC(=O)C=1NC(=C(C1C)CCC(=O)OCC)C | C14H21NO4
